US07968563B2
A 2 L glass parr vessel was charged with of 7-(benzyloxy)-3-nitro-N-(tetrahydro-2H-pyran-4-ylmethyl)quinolin-4-amine (59.34 g, 0.151 mol), platinum on carbon (5%, 6.6 g) and acetonitrile (600 mL) to provide a black mixture. The vessel was placed on a shaker and pressurized with hydrogen gas (−50 psi, 3.4×105 Pa). After shaking for 18 hours at ambient temperature, the mixture was filtered through CELITE filter agent, and the filter cake washed with acetonitrile. The filtrate was concentrated under reduced pressure to provide 7-(benzyloxy)-N4-(tetrahydro-2H-pyran-4-ylmethyl)quinoline-3,4-diamine

reactant | 7-(benzyloxy)-3-nitro-N-(tetrahydro-2H-pyran-4-ylmethyl)quinolin-4-amine | 0.151 mol, 59.34 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC1CCOCC1 | C22H23N3O4
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 6.6 g | [Pt] | Pt
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | 7-(benzyloxy)-N4-(tetrahydro-2H-pyran-4-ylmethyl)quinoline-3,4-diamine | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCC1CCOCC1 | C22H25N3O2
